US07208490B2
Step 2: Preparation of 2-(cis-2,6-Diethylmorpholin-4-yl)-5-nitrobenzaldehyde
1-Chloroethyl chloroformate (2.18 mL, 20 mmol, Aldrich) is added to a solution of 4-benzyl-cis-2,6-dimethylmorpholine in CH2Cl2 (45 mL) with stirring in an ice bath. The solution is allowed to warm to room temperature and stirred for 21 hours. The solvent is removed by rotary evaporation and the residue is dissolved in methanol (25 mL). This solution was heated to reflux for 3 hours and the methanol is removed by rotary evaporation. The product is dissolved in CH3CN (40 mL) and treated with N,N-diisopropylethylamine (2.0 mL, 11.5 mmol, Aldrich). K2CO3 (1.5 g, 11 mmol, Mallinkrodt) and 2-fluoro-5-nitrobenzaldehyde (1.9 g, 1.13 mmol, Oakwood) is added and the mixture is heated at 60° C. for 21 hours. N,N,N′-trimethylethylenediamine (0.4 mL) is added and the reaction is stirred an additional 45 minutes @ 60° C. The mixture is filtered and the solvent is removed by rotary evaporation. The residue is taken up in CH2Cl2 (200 mL) and washed 2× with 1.0 M HCl, 1× with saturated NaHCO3 and 1× with brine (150 mL each). The organic layer is dried over Na2SO4 and filtered. The solvent is removed by rotary evaporation and the product is purified on a Biotage Flash 40M+ using a 15% EtOAc in heptane as eluent. The product containing fractions are pooled and the solvent is removed by rotary evaporation. The product is dried under vacuum yielding a yellow solid.

reactant | 1-Chloroethyl chloroformate | 20 mmol, 2.18 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 4-benzyl-cis-2,6-dimethylmorpholine | C(C1=CC=CC=C1)N1C[C@H](O[C@H](C1)C)C | C13H19NO
reactant | N,N-diisopropylethylamine | 11.5 mmol, 2.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | K2CO3 | 11 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluoro-5-nitrobenzaldehyde | 1.13 mmol, 1.9 g | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | N,N,N′-trimethylethylenediamine | 0.4 mL | CN(CCNC)C | C5H14N2
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | 2-(cis-2,6-Diethylmorpholin-4-yl)-5-nitrobenzaldehyde | C(C)[C@@H]1CN(C[C@@H](O1)CC)C1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C15H20N2O4
